US05399578
250 g of 4-bromomethyl-2'-cyano-biphenyl, 150 g of sodium acetate and 2.5 1 of glacial acetic acid are heated to reflux overnight. The mixture is then concentrated in a high vacuum, and the residue is taken up in ethyl acetate. This ethyl acetate mixture is extracted in succession with water, sodium hydrogencarbonate solution and brine and then evaporated on a rotary evaporator. The crude product is dissolved in 3.1 l of ethanol, the solution is treated with 430 ml of 2N NaOH, the mixture is stirred overnight at room temperature and then concentrated, and the residue is taken up in ethyl acetate. The mixture is washed in succession with water and sodium carbonate solution and concentrated. The residue is suspended in hexane, the suspension is filtered with suction, and the filter cake is washed and dried at 60° in a high vacuum for 20 hours. 2'-Cyano-4-hydroxymethyl-biphenyl is thus obtained in the form of a white powder [1H-NMR (DMSO-d6): 4.58 ppm (d, 2H); 5.3 ppm (t, 1H); 7.6 to 8.0 ppm (m, 8H)].

reactant | 4-bromomethyl-2'-cyano-biphenyl | 250 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | sodium acetate | 150 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2'-Cyano-4-hydroxymethyl-biphenyl | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CO | C14H11NO
